US09447046B2
Preparation 96a: 4-(4-fluoro-3-methoxyphenyl)but-3-enoic acid
To a solution of (2-carboxyethyl)triphenylphosphonium bromide (14.8 g, 35.7 mmol) in THF (40 mL) was added NaHMDS (35.8 mL, 71.5 mmol) at −20° C., and the reaction was stirred for 20 min. 4-Fluoro-3-methoxybenzaldehyde (5.0 g, 32.5 mmol) was added to the reaction at −78° C., and the reaction was stirred overnight while warming to rt. The reaction was diluted with water (30 mL) and extracted with EtOAc (3×30 mL). Organics were washed with brine (30 mL), dried (Na2SO4), and concentrated to give 6.0 g (88%) of the crude title compound as a yellow solid. [M+H] Calc'd for C11H11FO3, 211. Found, 211.

reactant | (2-carboxyethyl)triphenylphosphonium bromide | 35.7 mmol, 14.8 g | [Br-].C(=O)(O)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | NaHMDS | 71.5 mmol, 35.8 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 4-Fluoro-3-methoxybenzaldehyde | 32.5 mmol, 5.0 g | FC1=C(C=C(C=O)C=C1)OC | C8H7FO2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | 4-(4-fluoro-3-methoxyphenyl)but-3-enoic acid | 6.0 g, 88% | FC1=C(C=C(C=C1)C=CCC(=O)O)OC | C11H11FO3
